US07553854B2
Step 2. Synthesis of 1-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-ethylamine
The dried resin to which the C-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-methyleneamine (1 eq) was bound was suspended in dry toluene. Under a nitrogen atmosphere methyl magnesium bromide (150 eq) in a 3 M solution in ethyl ether was added. This mixture was shaken for 24 hours at 60° C. then filtered and washed with toluene, water, then methanol and dichloromethane alternately three times. The final wash was with methanol. The solid was dried under vacuum.

reactant | C-(2,3-dihydro-benzo[1,4]dioxin-5-yl)-methyleneamine | 1 eq | O1CCOC2=C1C=CC=C2C=N | C9H9NO2
reactant | methyl magnesium bromide | 150 eq | C[Mg]Br
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-ethylamine | O1CCOC2=C1C=CC=C2C(C)N | C10H13NO2
